US04053312
D. 4-Amino-3-hydroxy-2-[4'-(2,4-di-t-pentylphenoxy)-n-butyl]naphthamide
To a solution of 21 g (0.034 mole) crude 3-hydroxy-4-(p-methoxyphenylazo)-2-[4'-(2,4-di-t-pentylphenoxy)-n-butyl]-naphthamide in 400 ml alcohol was added a solution of 13.9 g (0.08 mole) 90% sodium dithionite in 75 ml water. The mixture was refluxed for 0.5 hrs, then cooled and diluted with 400 ml H2O. The product was extracted into hexane, crystallized, and was collected and recrystallized from hexane to give 10 g yellow green solid, m.p. 93°-96° C.

reactant | 3-hydroxy-4-(p-methoxyphenylazo)-2-[4'-(2,4-di-t-pentylphenoxy)-n-butyl]-naphthamide | 0.034 mole, 21 g | OC=1C(=C(C2=CC=CC=C2C1N=NC1=CC=C(C=C1)OC)C(=O)N)CCCCOC1=C(C=C(C=C1)C(C)(C)CC)C(C)(C)CC | C38H47N3O4
reactant | sodium dithionite | 0.08 mole, 13.9 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | water | 75 ml | O | H2O
solvent | H2O | 400 ml | O | H2O
product | 4-Amino-3-hydroxy-2-[4'-(2,4-di-t-pentylphenoxy)-n-butyl]naphthamide | 10 g | NC1=C(C(=C(C2=CC=CC=C12)C(=O)N)CCCCOC1=C(C=C(C=C1)C(C)(C)CC)C(C)(C)CC)O | C31H42N2O3
